US04180672
2,3-Epoxycyclopentanone (1.47 g) and 2.0 g of 2-hydroxy-2-methylheptyl mercaptan were dissolved in 30 ml of diethyl ether, and 30 drops of triethylamine were added. They were reacted at room temperature for 2 hours. The solvent was distilled off from the reaction mixture to afford 4.01 g of a crude product. The crude product was chromatographed on a dry column with cyclohexane/ethyl acetate (=8/2) to afford 2.07 g of 2-(2-hydroxy-2-methylheptylthio)cyclopent-2-en-1-one in a yield of 69%. The product had the following characteristics.

reactant | 2,3-Epoxycyclopentanone | 1.47 g | O1C2C(CCC21)=O | C5H6O2
reactant | 2-hydroxy-2-methylheptyl mercaptan | 2.0 g | OC(CS)(CCCCC)C | C8H18OS
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
catalyst | triethylamine | 30 drops | C(C)N(CC)CC | C6H15N
product | 2-(2-hydroxy-2-methylheptylthio)cyclopent-2-en-1-one | 2.07 g, yield of 69% | OC(CSC=1C(CCC1)=O)(CCCCC)C | C13H22O2S
